Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is an ___ male with history of dementia, HTN 
on Aspirin but no
other anticoagulants who presents after with subdural hematoma
seen on CT at OSH after unwitnessed fall at nursing home. 

Patient was initially seen at ___ where a large scalp
laceration was closed with staples (after discussion with HCP
about ease of staples vs sutures) and was given Tdap. ___
showed very small perifalcine tSAH. He is DNR/DNI/DNH, but HCP
okayed transfer to ___ for neurosurgical evaluation.

As OSH, labs showed mildly increased Cr, Na, BUN, WBC. He
received ceftriaxone at 9am. EKG showed new LBBB from ___ but
with no comparison, and after discussion with HCP will not 
pursue
further work up or treatment.

At ___ ED, extensive trauma work up was pursued. 

In the ED, initial VS were:   97.3  96  134/71  20  98% RA 
Exam notable for:  6cm laceration in left upper frontalis region
in hair line, closed with 12 sutures 
EKG:  none
Labs showed:  From BIN: 
Imaging showed:  
NCHCT: unchanged small anterior parafalcine extraaxial 
hemorrhage
R Hip/pelvis: No acute fracture
R shoulder: No fracture
CTabd/pelvis: 10-mm left distal ureteral obstructing stone with
moderate to severe left hydroureteronephrosis, wall thickening,
and hyperremia. Moderate right hydroureteronephrosis and
collecting system urothelial hyperemia and wall thickening
without evidence of a stone. 

Neurosurgery was consulted:
Traumatic SAH is very small on initial CT, and repeat CT is
stable. No neurosurgical intervention is indicated at this time.
Neurosurgery recommends:
 - No Keppra indicated.
 - Hold ASA 81mg for 3 days.
 - No neurosurgical follow-up indicated

Urology was consulted:
No indication for acute urologic intervention in incidentally
found distal ureteral stone. No signs/symptoms of acute sepsis.
UA was improperly collected and unreliable, however nitrite
negative.  Family did not want ureteral stent without a
definitive reason for temporization.
  
Patient received:  nothing
Transfer VS were:  98.8 104 137/77 16 94% RA 

On arrival to the floor, patient has no complaints. Daughter/HCP
reports the patient had soreness to his right arm and hip
earlier. She states her father's mental status has been at its
baseline today. Daughter does not recall patient complaining of
anything in recent weeks except for occasional lower abdominal
pain. She is not aware of any reported fevers, chills, urinary
symptoms. He is incontinent of stool and urine at baseline.

She confirms her father is DNR/DNI, that she would like to avoid 
any invasive procedures that would not add to his quality of 
life. She would absolutely want to avoid general anesthesia. 
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as 
per HPI  

 
Past Medical History:
Dementia
HTN  
CAD sp stent to RCA, distant
___ transitional cell bladder cancer
 
Social History:
___
Family History:
Noncontributory

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  98.5 132/67 97 20 96 ra 
GENERAL: sleeping comfortably at start, awakes easily but not 
consistently answering questions, baseline per daughter 
___ to R anterior forehead into hairline, otherwise 
no deformities. EOMI, PERRL 
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox1.  moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:  
VS: ___ ___ Temp: 98.3 PO BP: 143/76 HR: 80 RR: 18 O2 sat:
99% O2 delivery: ra 
GENERAL: NAD, sitting up in bed alert, conversant and in good 
spirits
___: staples to R anterior forehead into hairline overlying
closed laceration with scant hemorrhagic crust, otherwise no 
deformities. MMM
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: clear to auscultation over anterior fields, breathing
comfortably without use of accessory muscles  
ABDOMEN: non-distended, non-tender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: Eyes closed, but pupils reactive. A&Ox1 (name).  moving
all 4 extremities with purpose, follows simple commands, but
cannot answer questions. 
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
Admission Labs:
---------------
___ 01:16PM BLOOD WBC-9.8# RBC-3.47*# Hgb-10.9*# Hct-34.6* 
MCV-100*# MCH-31.4 MCHC-31.5* RDW-13.0 RDWSD-47.6* Plt ___
___ 01:16PM BLOOD Glucose-135* UreaN-32* Creat-1.1 Na-151* 
K-4.1 Cl-111* HCO3-27 AnGap-13
___ 01:16PM BLOOD Calcium-9.8 Phos-2.8 Mg-2.6
URINE:
___ 04:36AM URINE RBC-4* WBC-66* Bacteri-NONE Yeast-NONE 
Epi-4
___ 04:36AM URINE Blood-NEG Nitrite-NEG Protein-100* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-MOD*
___ 04:36AM URINE Color-Yellow Appear-Hazy* Sp ___

Micro:
-------
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

Imaging:
---------
HIP (UNILAT 2 VIEW) W/PELVIS ___
IMPRESSION: No definite acute fracture.  Moderate bilateral hip 
degenerative changes. 
  
RIGHT GLENO-HUMERAL SHOULDER (W/ Y V) ___
IMPRESSION: ___ deformity.  No other findings of acute 
fracture.  No dislocation. 

CT HEAD W/O CONTRAST ___
IMPRESSION:  
1. Unchanged small anterior parafalcine extraaxial hemorrhage. 
2. No evidence of new intracranial hemorrhage, although exam is 
motion 
limited. 
3. Probable sequelae of chronic small vessel ischemic disease. 
4. Cortical atrophy. 
5. Paranasal sinus disease.

CT ABDOMEN AND PELVIS WITH CONTRAST ___
IMPRESSION: 
1. 10-mm left distal ureteral obstructing stone with moderate to 
severe left hydroureteronephrosis, wall thickening, and 
hyperremia. Moderate right hydroureteronephrosis and collecting 
system urothelial hyperemia and wall thickening without evidence 
of a stone. Correlate with urinalysis and 
possibility of ascending infection and/or inflammation. 
2. Severe atherosclerotic disease: 3.3 cm partially thrombosed 
infrarenal 
abdominal aortic aneurysm with small penetrating atherosclerotic 
ulcers. 1.5 cm bilateral common iliac artery aneurysms and with 
partially thrombosed 1.5 cm right proximal internal iliac artery 
aneurysm. 
3. No definite acute fracture. No shoulder dislocation. Multiple 
mild loss 
of vertebral body height particularly in the lumbar spine, age 
indeterminate but do not appear acute. Left ninth and tenth rib 
fractures appear chronic. 
4. Cholelithiasis. 
5. Colonic diverticulosis. 
6. Large rectal stool burden. 
7. Small hiatal hernia. 
8. Nonspecific right sub 6-mm pulmonary nodules. 
9. Incidental accessory and/or replaced left hepatic artery. 
 

Discharge Labs:
----------------
___ 06:52AM BLOOD UreaN-21* Creat-0.9 Na-146
 
Brief Hospital Course:
Summary:
-------- 
Mr. ___ is an ___ year-old man with advanced dementia, HTN, 
bladder cancer who was admitted with stable subdural hematoma 
after un-witnessed fall, and incidentally found distal 
obstructing ureteral stone and urinalysis concerning for UTI.

ACUTE ISSUES:
--------------
#Distal ureteral stone:
#Elevated Cr:
#Inflammatory UA:
The patient was incidentally found to have a distal obstructing 
ureteral stone with possible inflammation on trauma imaging. 
Urology was consulted and recommended outpatient monitoring and 
possible stent. This decision was made after discussion with the 
patient's healthcare proxy considering his goals of care. There 
was some concern for superinfection of stone, however repeat UA 
was not suggestive of infectious process (negative bacteria, 
blood, and nitrates). The patient's creatinine normalized on 
admission. 

#Concern for UTI
In this incontinent patient, unclear how his initial urine 
sample was collected.
Due to his baseline dementia, he is unreliably able to recount 
symptoms. Repeat urinalysis was not suggestive of UTI. Urine 
cultures were pending at the time of discharge. The patient 
received one dose of ceftriaxone on ___ in the emergency 
department, however, he remained afebrile, hemodynamically 
stable, and without leukocytosis, and repeat UA was negative for 
infection so further antibiotics were deferred. 

#Un-witnessed fall:
#SDH:
Difficult to say precipant without corroboration or history. 
Differential broad, including mechanical, syncope due to cardiac 
causes, etc however aggressive pursuit of etiology not within 
the patient's goals of care. EKG showed a new LBBB from ___ years 
prior, however, the patient's daughter/HCP declined further 
investigation for this at ___. Trauma workup was 
negative with exception of stable subdural hematoma. Labs were 
suggestive of poor po intake. Neurosurgery was consulted, who 
recommended holding aspirin until ___. The patient sustained a 
laceration to his right scalp, which was closed with staples, 
and these should be removed on ___. 

#Hypernatremia: The patient had hypernatremia to 151 while 
admitted, likely due to dehydration. He was given intravenous 
fluids, and sodium levels normalized. Upon discharge he was 
drinking normally with assistance and encouragement and able to 
maintain adequate PO intake. 

CHRONIC ISSUES:
----------------
#CAD s/p stent to RCA
Per ___ cath report "s/p balloon angioplasties of his LAD, 
circumflex/OM, and RCA between ___ and stent to RCA. 
Aspirin was held for 3 days per neurosurgery recs. 

#HTN: Lisinopril was held during this admission due to the 
concern for infection initially, but this was restarted on 
discharge. 

#Dementia:
At baseline. Has behavioral disturbance on antipsychotics, 
admission Qtc 474. The patient's daughter was contacted to 
clarify doses of quetiapine and trazadone. 

TRANSITIONAL ISSUES:
====================
#Medication Changes:
- Started tamsulosin for obstructing ureteral stone
- Stopped quetiapine
- Changed trazodone to 25 mg QHS PRN for insomnia
- Stopped Vitamin D
- Stopped tramadol because this can cause confusion

#Head Laceration: The patient will need staple removal on 
___. Ok to restart aspirin ___.

#Ureteral Stone: The patient will follow up with urology for 
monitoring +/- stent for incidental distal ureteral stone seen 
on imaging. 

#Code Status: DNR, DNI, Do not hospitalize
#Contact: ___, daughter HCP
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Docusate Sodium 200 mg PO BID 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
4. Lisinopril 10 mg PO DAILY 
5. Metoprolol Succinate XL 25 mg PO DAILY 
6. Gabapentin 100 mg PO BID 
7. QUEtiapine Fumarate 25 mg PO BID 
8. QUEtiapine Fumarate 50 mg PO QHS 
9. TraZODone 50 mg PO QHS 
10. TraZODone 25 mg PO DAILY 
11. TraMADol 25 mg PO Q12H:PRN Pain - Moderate 
12. Vitamin D 1000 UNIT PO DAILY 
13. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Tamsulosin 0.4 mg PO DAILY  
2.  TraZODone 25 mg PO QHS:PRN insomnia 
RX *trazodone 50 mg 0.5 (One half) tablet(s) by mouth QHS PRN 
Disp #*30 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Aspirin 81 mg PO DAILY  
5.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
6.  Docusate Sodium 200 mg PO BID  
7.  Gabapentin 100 mg PO BID  
8.  Lisinopril 10 mg PO DAILY  
9.  Metoprolol Succinate XL 25 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
-------------------
Subdural Hematoma
Fall
Distal Ureteral Stone with Hydronephrosis
Hypernatremia

Secondary Diagnoses:
Dementia
Coronary artery disease
Hypertension

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear  Mr. ___,  
It was a pleasure to take care of you at ___.  

WHY WAS I HERE?  
You were admitted to the hospital because you had a fall, and 
your urine studies were concerning for infection

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL  
- While you were in the hospital you had additional urine 
studies, which did not show infection
- You were given IV fluids for high sodium, and this got better 
once you started drinking
 
WHAT SHOULD I DO WHEN I GET HOME?  
1) Please follow up at your outpatient appointments.  
2) Please take your medications as prescribed. 
3) Your head staples need to be removed on ___
4) Make sure you drink plenty of fluids during the day

We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___